US04332815
Sodium borohydride pellets, 5.6 grams (0.15 mole), were added portionwise during 0.5 hour to a stirred, cooled, solution of 30.0 grams (0.15 mole) of 5-(phenylmethyl)thiophene-2-carboxaldehyde in 400 ml of ethanol. Cooling was continued until the sodium borohydride had completely dissolved. The reaction mixture was then heated at reflux for 0.75 hour, cooled, and concentrated under reduced pressure to give a residual oil. The oil was slurried in ice-water saturated with sodium chloride, and the mixture was extracted with three portions of 150 ml each of chloroform. The extracts were combined, then dried with magnesium sulfate, filtered and the filtrate concentrated under reduced pressure to give a residual oil. The oil was distilled under reduced pressure using a Kugelrohr distilling system to give 22.5 grams of 5-(phenylmethyl)thiophene-2-methanol; b.p. 106° C./0.2 mm.

reactant | Sodium borohydride | [BH4-].[Na+]
reactant | 5-(phenylmethyl)thiophene-2-carboxaldehyde | 0.15 mole, 30.0 grams | C1(=CC=CC=C1)CC1=CC=C(S1)C=O | C12H10OS
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 5-(phenylmethyl)thiophene-2-methanol | 22.5 grams | C1(=CC=CC=C1)CC1=CC=C(S1)CO | C12H12OS
